US07388020B2
iii) 6-Methoxy-2-methyl-1,3-benzoxazol-4-yl (2S)oxiranylmethyl ether
A suspension of 6-methoxy-2-methyl-1,3-benzoxazol-4-ol (0.11 g, 0.60 mmol), (2S)-2-[(3-nitrophenoxy)methyl]oxirane (0.16 g, 0.79 mmol) and cesium carbonate (0.44 g, 1.37 mmol) in dry DMF (4 mL) was stirred at room temperature for 5 hours. After aqueous work-up the crude product was purified by flash chromatography (SiO2, toluene-ethyl acetate, 3:1) to afford the subtitle compound (0.118 g, 83.7%).

reactant | 6-methoxy-2-methyl-1,3-benzoxazol-4-ol | 0.60 mmol, 0.11 g | COC=1C=C2C(N=C(O2)C)=C(C1)O | C9H9NO3
reactant | (2S)-2-[(3-nitrophenoxy)methyl]oxirane | 0.79 mmol, 0.16 g | [N+](=O)([O-])C=1C=C(OC[C@H]2OC2)C=CC1 | C9H9NO4
reactant | cesium carbonate | 1.37 mmol, 0.44 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 6-Methoxy-2-methyl-1,3-benzoxazol-4-yl (2S)oxiranylmethyl ether | 0.118 g, 83.7% | O1[C@@H](C1)COC=1C=C(C=C2C1N=C(O2)C)OC | C12H13NO4
